//============================================================================
// JFET - Junction Field Effect Transistor - J**
// Jxx ND NG NS MNAME
//      [[AREA=]AREA_VAL] [L=VAL] [W=VAL]
//    + [T[EMP]=VAL] [DTEMP=VAL] [M=VAL] [OFF=0|1] [STATISTICAL=0|1]
//    + [NONOISE] [NOISE=1]
//
//      [FMIN=VAL] [FMAX=VAL] [NBF=VAL] [STATISTICAL=0|1]
//
// MESFET
//      [AREA] [L=VAL] [W=VAL] [T[EMP]=VAL] [DTEMP=VAL]
//    + [M=VAL] [OFF=0|1] [STATISTICAL=0|1] [NONOISE] [NOISE=1]
//
//      [FMIN=VAL] [FMAX=VAL] [NBF=VAL] [STATISTICAL=0|1]
//============================================================================
j1 1 2 3 fet2 t=50
j1 3 2 0 je20
